US08748415B2
To a solution of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (27 mg, 0.040 mmol) in DCE (2 ml) was added Hunig's base (0.021 ml, 0.121 mmol), DMAP (1 mg, 8.19 μmol), Mono-tert-butyl malonate (0.012 ml, 0.080 mmol), and O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate (19.38 mg, 0.060 mmol). The mixture was stirred at rt. After 5 h of stirring, the mixture was loaded directly onto a silica gel column and was purified using a 0-5% MeOH in dichloromethane gradient to afford tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-tert-butoxy-N-(2-(dimethylamino)ethyl)-3-oxopropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate as a white foam (31.8 mg, 0.039 mmol, 97% yield). LCMS: m/e 813.4 (M−H)−, 3.46 min (method 6).

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-(dimethylamino)ethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.040 mmol, 27 mg | CN(CCNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)C | C45H70N2O2
reactant | Hunig's base | 0.121 mmol, 0.021 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | Mono-tert-butyl malonate | 0.080 mmol, 0.012 ml | C(CC(=O)[O-])(=O)OC(C)(C)C
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium tetrafluoroborate | 0.060 mmol, 19.38 mg | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
catalyst | DMAP | 8.19 μmol, 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((3-tert-butoxy-N-(2-(dimethylamino)ethyl)-3-oxopropanamido)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.039 mmol, 31.8 mg, 97% yield | C(C)(C)(C)OC(CC(=O)N(CCN(C)C)C[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C)=O | C52H80N2O5
